US04623662
To a cooled suspension of 43.0 g of anhydrous aluminum chloride in 250 ml of methylene chloride was added 40.0 g of oxalyl chloride over a period of 25 minutes. The resulting mixture was stirred for 5 minutes and then 43.2 g of neopentylbenzene was added dropwise maintaining a temperature of 0°-50° C. over a period of 35 minutes. The dark red mixture was stirred at an ambient temperature and then heated slowly to reflux for 3 hours, cooled, and poured into a mixture of 250 g of ice and 188 ml of concentrated hydrochloric acid. The mixture was stirred for 1/2 hours, and two layers were separated. The aqueous layer was extracted with methylene chloride and the combined organic layers were evaporated to yield a brown oily residue. The residue was heated and stirred under reflux with 200 ml of 10N sodium hydroxide, 150 ml of water, and 250 ml of ethyl alcohol for 20 minutes, cooled, and the mixture was extracted with ether. The aqueous layer was acidified with concentrated hydrochloric acid and stirred for 1 hour. The solid was collected by filtration, washed with water, dissolved in ethyl acetate, the aqueous layer was discarded, dried and evaporated to yield a solid. The solid was crystallized from acetone to yield p-neopentylbenzoic acid as a beige solid, mp 191°-193° C.

reactant | aluminum chloride | 43.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | oxalyl chloride | 40.0 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | neopentylbenzene | 43.2 g | C(C(C)(C)C)C1=CC=CC=C1 | C11H16
reactant | hydrochloric acid | 188 ml | Cl | ClH
reactant | sodium hydroxide | 10N, 200 ml | [OH-].[Na+]
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl alcohol | 250 ml | C(C)O | C2H6O
solvent | water | 150 ml | O | H2O
product | p-neopentylbenzoic acid | C(C(C)(C)C)C1=CC=C(C(=O)O)C=C1 | C12H16O2
